US04659718
A mixture of 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone (5.25 g), sodium cyanide (1.0 g), crown ether (18-crown-6, 5.4 g) and acetonitrile (200 ml) was stirred and boiled under reflux for 79 hours, left at ambient temperature for 70 hours, and boiled under reflux for 24 hours. The mixture was cooled and filtered. The residue was boiled with industrial methylated spirit (200 ml) and the mixture filtered while hot. The residue was further extracted twice with boiling 50% aqueous industrial methylated spirit (400 ml, then 200 ml). Each hot extract precipitated a solid when cooled. The three solids were combined and recrystallised from 50% aqueous industrial methylated spirit to give a crude product. This product was purified by high pressure liquid chromatography on silica, using dichloromethane:methanol 9:1 as the eluent. The eluent was evaporated to give a residue which was recrystallised from 30% aqueous industrial methylated spirit to give the novel compound 7-cyano-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone, m.p. 301°-303°.

reactant | 7-fluoro-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | 5.25 g | FC1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C12H10FN5O
reactant | sodium cyanide | 1.0 g | [C-]#N.[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 7-cyano-1-methyl-3-(1-methyl-1H-tetrazol-5-yl)-4-quinolone | C(#N)C1=CC=C2C(C(=CN(C2=C1)C)C1=NN=NN1C)=O | C13H10N6O
